US09029545B2
3-(3-Chlorophenyl)-2,6-dimethylthieno[2,3-b]pyridin-4-amine
Under nitrogen, 3-bromo-2,6-dimethylthieno[2,3-b]pyridin-4-amine (170 mg, 0.661 mmol) (Description 8) was dissolved in toluene (6 mL) and (3-chlorophenyl)boronic acid (155 mg, 0.992 mmol), PdCl2(dppf).DCM (54.0 mg, 0.066 mmol) and Cs2CO3 (646 mg, 1.983 mmol) were added and the mixture heated in a microwave at 150° C. for 30 min. The reaction mixture was combined with the material (30 mg) from similar reaction. Water (20 mL) was added and the mixture extracted with ethyl acetate (3×15 mL). The organic layer was dried over MgSO4, filtered and solvent removed in vacuo. Purification by chromatography on silica gel, eluting with a gradient of 0-50% ethyl acetate in cyclohexane, afforded the title compound (204.4 mg). LCMS (A) m/z: 291 [M+1]+, Rt 0.84 min (acidic).

reactant | 3-bromo-2,6-dimethylthieno[2,3-b]pyridin-4-amine | 0.661 mmol, 170 mg | BrC1=C(SC=2N=C(C=C(C21)N)C)C | C9H9BrN2S
reactant | (3-chlorophenyl)boronic acid | 0.992 mmol, 155 mg | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | DCM | 0.066 mmol, 54.0 mg | C(Cl)Cl | CH2Cl2
reactant | Cs2CO3 | 1.983 mmol, 646 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Water | 20 mL | O | H2O
product | 3-(3-Chlorophenyl)-2,6-dimethylthieno[2,3-b]pyridin-4-amine | 204.4 mg | ClC=1C=C(C=CC1)C1=C(SC=2N=C(C=C(C21)N)C)C | C15H13ClN2S
